US07638517B2
A mixture of 1H-pyrrolo[3,2-b]pyridin-3-carbaldehyde (660 mg, 4.5 mmol), tert-butyl-methyl malonate (3.8 mL, 22.5 mmol), piperidine (0.12 mL) and acetic acid (0.12 mL) in acetonitrile (40 mL) was heated to reflux. The resulting mixture was stirred at RT for 24 h, concentrated, and purified via flash chromatography (hexane/EtOAc) affording 2-(1H-Pyrrolo[3,2-b]pyridin-3-yl-methylene)-malonic acid tert-butyl ester methyl ester as a mixture of cis- and trans-isomers (780 mg, 57% yield).

reactant | 1H-pyrrolo[3,2-b]pyridin-3-carbaldehyde | 4.5 mmol, 660 mg | N1C=C(C2=NC=CC=C21)C=O | C8H6N2O
reactant | tert-butyl-methyl malonate | 22.5 mmol, 3.8 mL | C(CC(=O)[O-])(=O)OCC(C)(C)C
reactant | piperidine | 0.12 mL | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.12 mL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 2-(1H-Pyrrolo[3,2-b]pyridin-3-yl-methylene)-malonic acid tert-butyl ester methyl ester | 57% yield | COC(C(C(=O)OC(C)(C)C)=CC1=CNC=2C1=NC=CC2)=O | C16H18N2O4
